US05292957
480.0 g (2.5 mol) of 3,4-dichloronitrobenzene were reacted in 2500 ml of butyl acetate under the reaction conditions described in Example 1 with 10 g of sulfited platinum catalyst F1OP. After the solvent had been distilled off in vacuo, the residue was fractionated to give 431.0 g of N-isopropyl-3,4-dichloroaniline at a purity of 98.9% (GC) in the boiling range 143° to 148° C. (13.33 to 16 bar), which corresponds to a yield of 84.5% of theory.

reactant | 3,4-dichloronitrobenzene | 2.5 mol, 480.0 g | ClC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | butyl acetate | 2500 ml | C(C)(=O)OCCCC | C6H12O2
catalyst | platinum | 10 g | [Pt] | Pt
product | N-isopropyl-3,4-dichloroaniline | 431.0 g, yield of 84.5% | C(C)(C)NC1=CC(=C(C=C1)Cl)Cl | C9H11Cl2N
